US07399759B2
N-(6-Aminohexyl)-6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxamide hydrochloride salt
tert-Butyl 6-[[[6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]amino]hexylcarbamate (0.30 g, 0.60 mmol) was dissolved in dioxane (10 ml), and 4 N hydrochloric acid in dioxane (1.0 ml. 4.00 mol) was added thereto. The reaction mixture was stirred at room temperature for 24 hrs. The precipitates were collected by filtration and recrystallized from diisopropyl ether-methanol to give the titled compound (0.05 g, 20%) as pale yellow crystals.

reactant | tert-Butyl 6-[[[6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]carbonyl]amino]hexylcarbamate | 0.60 mmol, 0.30 g | CC1=CC=CC=2C(N=C(SC21)C2=CC=CC(=N2)C(=O)NCCCCCCNC(OC(C)(C)C)=O)=O | C26H32N4O4S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 4.00 mol, 1.0 ml | O1CCOCC1 | C4H8O2
product | N-(6-Aminohexyl)-6-(8-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxamide hydrochloride salt | 0.05 g, 20% | Cl.NCCCCCCNC(=O)C1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2C | InChI=1S/C21H24N4O2S.ClH/c1-14-8-6-9-15-18(14)28-21(25-19(15)26)17-11-7-10-16(24-17)20(27)23-13-5-3-2-4-12-22;/h6-11H,2-5,12-13,22H2,1H3,(H,23,27);1H
